US04140793
A solution of hexan-2,5-dione (23 g.), glycine methyl ester hydrochloride (25 g.), and sodium acetate (16 g.) in acetic acid (100 cm3) was heated under reflux for 1 hour. The mixture was then poured into water, extracted with ether, and the ethereal phase washed with sodium carbonate solution, dried, and evaporated to yield a brown oil. The product was then distilled under vacuum to give methyl (2,5-dimethyl-1H-pyrrol-1-yl)acetate as a colourless oil which crystallised on standing. (22.1 g.) b.p. 123°-129° C./15 mm, m.p. 44°-46° C.

reactant | hexan-2,5-dione | 23 g | CC(CCC(C)=O)=O | C6H10O2
reactant | glycine methyl ester hydrochloride | 25 g | Cl.COC(CN)=O
reactant | sodium acetate | 16 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | acetic acid | 100 cm3 | C(C)(=O)O | C2H4O2
product | methyl (2,5-dimethyl-1H-pyrrol-1-yl)acetate | CC=1N(C(=CC1)C)CC(=O)OC | C9H13NO2
